US07737149B2
4-(4-Cyclopropylpiperazin-1-yl)-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-1H-pyrazol-3-yl]benzamide
4-(4-cyclopropylpiperazin-1-yl)-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]benzamide was prepared as for Example 94, but starting from ethyl 4-(4-cyclopropylpiperazin-1-yl)benzoate (193 mg, 0.7 mmol), tert-butyl 5-amino-3-[2-(3,5-dimethoxyphenyl)ethyl]-1H-pyrazole-1-carboxylate (292 mg, 0.84 mmol) and 1M NaHMDS (1.23 ml, 1.23 mmol) in THF (5 ml). The crude product was purified by reverse phase prep. HPLC (acidic) using a 16-36% gradient of acetonitrile in water containing 0.1% TFA. The clean fractions were neutralised and evaporated to afford the title compound as a white solid (40 mg, 12%); 1H NMR (500.13 MHz, DMSO-d6+d4 Acetic Acid) δ 0.46 (2H, d), 0.50 (2H, d), 1.79-1.84 (1H, m), 2.78 (4H, t), 2.90 (4H, s), 3.24-3.31 (4H, m), 3.75 (6H, s), 6.32 (1H, s), 6.33 (1H, t), 6.42 (2H, d), 6.94-6.96 (2H, m), 7.86-7.88 (2H, m).

reactant | ethyl 4-(4-cyclopropylpiperazin-1-yl)benzoate | 0.7 mmol, 193 mg | C1(CC1)N1CCN(CC1)C1=CC=C(C(=O)OCC)C=C1 | C16H22N2O2
reactant | tert-butyl 5-amino-3-[2-(3,5-dimethoxyphenyl)ethyl]-1H-pyrazole-1-carboxylate | 0.84 mmol, 292 mg | NC1=CC(=NN1C(=O)OC(C)(C)C)CCC1=CC(=CC(=C1)OC)OC | C18H25N3O4
reactant | NaHMDS | 1.23 mmol, 1M, 1.23 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-(4-Cyclopropylpiperazin-1-yl)-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-1H-pyrazol-3-yl]benzamide | 40 mg, 12% | C1(CC1)N1CCN(CC1)C1=CC=C(C(=O)NC2=NNC(=C2)CCC2=CC(=CC(=C2)OC)OC)C=C1 | C27H33N5O3
